US07645771B2
5-(Chlorosulfonyl)-2-hydroxynicotinic acid (500 mg, 2.10 mmol) vas suspended in 5 ml of POCl3 in a sealed tube and heated to 130° C. until all solid had dissolved. The reaction was cooled to 0° C. and poured onto ice and stirred until a solid formed. The filtered white solid was dried to afford 2-chloro-5-(chlorosulfonyl)nicotinic acid. 1H NMR (400 MHz, Acetone-d6) δ ppm 8.9 (d, J=2.6 Hz, 10H), 9.3 (d, J=2.6 Hz, 10H).

reactant | 5-(Chlorosulfonyl)-2-hydroxynicotinic acid | 2.10 mmol, 500 mg | ClS(=O)(=O)C=1C=NC(=C(C(=O)O)C1)O | C6H4ClNO5S
reactant | POCl3 | 5 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-(chlorosulfonyl)nicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)S(=O)(=O)Cl | C6H3Cl2NO4S
